US06180622B2
The procedure of Synthesis Example 10-a) is repeated, except that 1.60 g of 5-methylthioimidazo[5,1-b]thiazole and 2.97 g of (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-formylpyrrolidine are used and the purification is successively performed by column chromatography on Sephadex LH-20 (dichloromethane:methanol=1:1) and on silica gel (hexane:ethyl acetate=1:2) to give 2.37 g of (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-[1-hydroxy-1-(5-methylthioimidazo[5,1-b]thiazol-2-yl)methyl]pyrrolidine (a diastereomer mixture) as a yellow amorphous material.

reactant | 5-methylthioimidazo[5,1-b]thiazole | 1.60 g | CSC1=NC=C2SC=CN21 | C6H6N2S2
reactant | (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-formylpyrrolidine | 2.97 g | C(C=C)OC(=O)N1C[C@@H](C[C@H]1C=O)O[Si](C)(C)C(C)(C)C | C15H27NO4Si
product | (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-[1-hydroxy-1-(5-methylthioimidazo[5,1-b]thiazol-2-yl)methyl]pyrrolidine | 2.37 g | C(C=C)OC(=O)N1C[C@@H](C[C@H]1C(C1=CN2C(S1)=CN=C2SC)O)O[Si](C)(C)C(C)(C)C | C21H33N3O4S2Si
